US04413010
52 g of ethyl (2-hydroxyethyl)-n-butylcarbamate are placed in 125 ml of methylene chloride and treated dropwise with 41.6 g of thionyl chloride during 45 minutes at 20°-25° C. Then the mixture is allowed to react for an additional 1 hour at room temperature. After removing the solvent, the residue is distilled to yield pure ethyl (2-chloroethyl)-n-butylcarbamate; b.p. 91° C./0.07 Torr.

reactant | ethyl (2-hydroxyethyl)-n-butylcarbamate | 52 g | OCCN(C(OCC)=O)CCCC | C9H19NO3
reactant | thionyl chloride | 41.6 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
product | ethyl (2-chloroethyl)-n-butylcarbamate | ClCCN(C(OCC)=O)CCCC | C9H18ClNO2
